US07399812B2
2,2-Di-n-propyl-3-methoxy-1-propanol was prepared from 2,2-di-n-propyl-1,3-propandiol and methyl iodide through the same procedure as described above.

reactant | 2,2-di-n-propyl-1,3-propandiol | C(CC)C(CO)(CO)CCC | C9H20O2
reactant | methyl iodide | CI | CH3I
product | 2,2-Di-n-propyl-3-methoxy-1-propanol | C(CC)C(CO)(COC)CCC | C10H22O2
